US06900215B2
3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine was coupled to 1-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluorophenyl]-1H-pyrrole by the method of Example 65 to furnish 3-[4-fluoro-3-(pyrrol-1-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine: δH (400 MHz, DMSO) 9.37 (1H, d, J 7), 8.33 (1H, s), 7.97 (1H, d, J 8 and 2), 7.75-7.62 (2H, m), 7.52 (1H, d, J 7), 7.30 (2H, q, J 2), 6.32 (2H, t, J 2); m/z (ES+) 347 (M+H+).

reactant | 3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
reactant | 1-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluorophenyl]-1H-pyrrole | CC1(COB(OC1)C=1C=CC(=C(C1)N1C=CC=C1)F)C | C15H17BFNO2
product | 3-[4-fluoro-3-(pyrrol-1-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)N2C=CC=C2 | C17H10F4N4
